C1 vop 0 1p
M1 N003 vb2 vop VDD PMOS l=0.18u w=4u
M2 VDD N001 N003 VDD PMOS l=0.18u w=4u
M3 VDD N001 N002 VDD PMOS l=0.18u w=4u
M4 N002 vb2 N001 VDD PMOS l=0.18u w=4u
M5 N001 vb3 N004 0 NMOS l=0.18u w=2u
M6 vop vb3 N005 0 NMOS l=0.18u w=2u
M7 N005 vin N006 0 NMOS l=0.18u w=2u
M8 N004 vip N006 0 NMOS l=0.18u w=2u
M9 N006 vtail 0 0 NMOS l=0.18u w=2u
VDD VDD 0 1.8